US08278335B2
Step 1. 1-(6-Bromopyridin-2-yl)-2,2,2-trifluoroethanol
6-Bromopyridine-2-carbaldehyde (1.0 g, 5.38 mmol) was dissolved in 35 mL THF and cooled to 0° C. TMSCF3 (1.0 mL, 6.45 mmol) was added followed by tetrabutylammonium fluoride (6.45 mL of 1.0M in THF). The ice bath was removed and the reaction was stirred for 4.5 hours at room temperature. The reaction was then diluted with water and brine and extracted with ethyl acetate three times. The organic layers were combined and dried over magnesium sulfate, filtered, and concentrated under reduced pressure. Purification by silica gel chromatography (0-40% ethyl acetate/hexanes) afforded the title compound. 1H NMR (600 MHz, d6-DMSO) δ 7.83 (m, 1H), 7.67 (d, 1H), 7.63 (d, 1H), 7.15 (d, 1H), 5.11 (m, 1H).

reactant | 6-Bromopyridine-2-carbaldehyde | 5.38 mmol, 1.0 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | TMSCF3 | 6.45 mmol, 1.0 mL | [Si](C)(C)(C)C(F)(F)F | C4H9F3Si
reactant | tetrabutylammonium fluoride | 1.0M, 6.45 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 1-(6-Bromopyridin-2-yl)-2,2,2-trifluoroethanol | BrC1=CC=CC(=N1)C(C(F)(F)F)O | C7H5BrF3NO
